US07166621B2
1-(1,1-Dimethyl-2-propynyl)-2,2,5,5-tetramethyl-1-aza-2,5-disilacyclopentane (22.6 g) in dry tetrahydrofuran (250 ml) was cooled to −50° C. under an atmosphere of nitrogen with stirring and a solution of n-butyl lithium (44 ml, 2.5M solution in hexanes) was added dropwise over 10 minutes. The mixture was stirred for 0.5 hour, allowed to warm to −20° C. then formaldehyde gas was bubbled through the mixture until no starting material remained as determined by glc analysis. On completion of reaction the mixture was treated with water, the ether phase separated, the aqueous phase extracted with ethyl acetate (twice) and the organic extracts combined and washed with water (three times). The organic extract was dried over magnesium sulphate and evaporated under reduced pressure to give (1-hydroxy-4-methylpent-2-yn-4-yl)- 2,2,5,5-tetramethyl-1-aza-2,5-disilacyclopentane, 24.96 g, as a pale yellow liquid.

reactant | 1-(1,1-Dimethyl-2-propynyl)-2,2,5,5-tetramethyl-1-aza-2,5-disilacyclopentane | 22.6 g | CC(C#C)(C)N1[Si](CC[Si]1(C)C)(C)C | C11H23NSi2
reactant | n-butyl lithium | 2.5M, 44 ml | C(CCC)[Li]
reactant | water | O | H2O
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
product | (1-hydroxy-4-methylpent-2-yn-4-yl)- 2,2,5,5-tetramethyl-1-aza-2,5-disilacyclopentane | OCC#CC(C)(C)N1[Si](CC[Si]1(C)C)(C)C | C12H25NOSi2
